US05021398
COPPER (II) METHACRYLATE
1.50 Grams (0.009 mol) of copper (II) ethoxide was introduced into a 50 ml. round bottom flask having a magnetic spinning bar, in an argon atmosphere in a dry box. A solution of 1.84 g (0.02 mol) of methacrylic acid, prepared in 20 ml of anhydrous tetrahydrofuran was then added to it. The contents of the flask were agitated overnight (20 hr) by means of a magnetic stirrer at ambient temperature under argon. All volatile matter was then removed in vacuo (about 0.1 mm Hg) for 12 hours. The resulting solid was analyzed for its metal content.

reactant | copper (II) ethoxide | 0.009 mol | [O-]CC.[Cu+2].[O-]CC
reactant | methacrylic acid | 0.02 mol, 1.84 g | C(C(=C)C)(=O)O | C4H6O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | COPPER (II) METHACRYLATE | C(C(=C)C)(=O)[O-].[Cu+2].C(C(=C)C)(=O)[O-] | InChI=1S/2C4H6O2.Cu/c2*1-3(2)4(5)6;/h2*1H2,2H3,(H,5,6);/q;;+2/p-2
